US06743608B2
(2R)-2-Ethoxy-3-(4-hydroxyphenyl)propanoic acid/2-Ethoxyethyl (2S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoate
Ethoxyethyl (2RS) 2-ethoxy-3-(4-hydroxyphenyl)propanoate (0.5 ml of a solution containing 2 mg/ml in a phosphate, pH 7, 0.1 M) was added followed by immobilised protease from Pseudomonas putida (L-aminopeptidase, available as Novozym 180 or SP 180 from Novo Nordisk) (5 mg) and phosphate buffer (0.1 M, pH 7, 0.5 ml); The reaction mixture was shaken at room temperature and analysed at different times (maximum 36 h). The reaction mixture was analysed without work up by the gradient HPLC method 1 and by the chiral HPLC method.

reactant | Ethoxyethyl (2RS) 2-ethoxy-3-(4-hydroxyphenyl)propanoate | C(C)OC(C(=O)OCCOCC)CC1=CC=C(C=C1)O | C15H22O5
reactant | phosphate | P(=O)([O-])([O-])[O-]
reactant | phosphate | 0.1 M, 0.5 ml, pH 7 | P(=O)([O-])([O-])[O-]
product | (2R)-2-Ethoxy-3-(4-hydroxyphenyl)propanoic acid 2-Ethoxyethyl (2S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoate | C(C)O[C@@H](C(=O)O)CC1=CC=C(C=C1)O.C(C)O[C@H](C(=O)OCCOCC)CC1=CC=C(C=C1)O | InChI=1S/C15H22O5.C11H14O4/c1-3-18-9-10-20-15(17)14(19-4-2)11-12-5-7-13(16)8-6-12;1-2-15-10(11(13)14)7-8-3-5-9(12)6-4-8/h5-8,14,16H,3-4,9-11H2,1-2H3;3-6,10,12H,2,7H2,1H3,(H,13,14)/t14-;10-/m01/s1
